US07585874B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid (tetrahydro-pyran-4-yl)-amide
As described for Example 11b, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid (85 mg, 0.27 mmol) was converted, using 4-aminotetrahydropyran instead of aminomethylcyclopropane, to the title compound (61 mg, 57%) which was obtained as a yellow solid. MS: m/e=403.5 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid | 0.27 mmol, 85 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)C(=O)O)C1 | C18H13N3O3
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid (tetrahydro-pyran-4-yl)-amide | 61 mg, 57% | O1CCC(CC1)NC(=O)C1=CC=2N(C=C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C23H22N4O3
